US05310723
A stirred suspension of 2.7 grams (0.066 mole) of 60% sodium hydride (in mineral oil) in 125 mL of tetrahydrofuran was cooled to -20° C., and 11.0 grams (0.060 mole) of ethyl 3-amino-4,4,4-trifluoro-2-butenoate was added dropwise. Upon completion of addition, the reaction mixture was stirred for about 10 minutes, and 10.9 grams (0.060 mole) of 2-fluoro-4-nitrophenyl isocyanate was added dropwise. Upon completion of addition, the reaction mixture was allowed to warm to ambient temperature, where it was stirred for one hour. After this time the reaction mixture was warmed to reflux, where it was stirred for about 16 hours. The reaction mixture was then cooled to about ambient temperature, and 8.3 grams (0.060 mole) of potassium carbonate and 17.1 grams (0.120 mole) of methyl iodide were added. Upon completion of addition, the reaction mixture was warmed to reflux, where it was stirred for about 7 hours. The reaction mixture was cooled to ambient temperature and stirred with diethyl ether and water. The organic layer was separated, washed with water, and dried with magnesium sulfate. The mixture was filtered, and the filtrate was concentrated under reduced pressure to a residue. The residue was combined with a previous run (0.070 mole) of this reaction, and the mixture was subjected to column chromatography on silica gel. Elution was accomplished with heptane, 1:1 heptane-methylene chloride, and methylene chloride. The product-containing fractions were combined and concentrated under reduced pressure, yielding 17.7 grams of 3-(2-fluoro-4-nitrophenyl)-1-methyl-6-trifluoromethyluracil; mp 135°-136° C. The NMR spectrum was consistent with the proposed structure.

reactant | sodium hydride | 0.066 mole, 2.7 grams | [H-].[Na+]
reactant | ethyl 3-amino-4,4,4-trifluoro-2-butenoate | 0.060 mole, 11.0 grams | NC(=CC(=O)OCC)C(F)(F)F | C6H8F3NO2
reactant | 2-fluoro-4-nitrophenyl isocyanate | 0.060 mole, 10.9 grams | FC1=C(C=CC(=C1)[N+](=O)[O-])N=C=O | C7H3FN2O3
reactant | potassium carbonate | 0.060 mole, 8.3 grams | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.120 mole, 17.1 grams | CI | CH3I
solvent | tetrahydrofuran | 125 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-(2-fluoro-4-nitrophenyl)-1-methyl-6-trifluoromethyluracil | 17.7 grams | FC1=C(C=CC(=C1)[N+](=O)[O-])N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C12H7F4N3O4
